US04894483
(b) Preparation of the catalyst 3-benzyl-5-(2-hydroxyethyl)-4-methyl-1,3-thiazolium chloride (X)
71.6 g (500 millimoles) of 5-(2-hydroxyethyl)-4-methyl-1,3-thiazole), 63.3 g (500 millimoles) of freshly distilled benzyl chloride and 250 ml of absolute acetonitrile are refluxed for 24 hours in a 500 ml round-bottomed flask. The stirred reaction mixture is slowly cooled to room temperature, and the precipitate is filtered off under suction, washed colorless with dry acetonitrile, predried and then dried at 90° C. under reduced pressure from a water pump.

reactant | 5-(2-hydroxyethyl)-4-methyl-1,3-thiazole | 500 millimoles, 71.6 g | OCCC1=C(N=CS1)C | C6H9NOS
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 3-benzyl-5-(2-hydroxyethyl)-4-methyl-1,3-thiazolium chloride | [Cl-].C(C1=CC=CC=C1)[N+]1=CSC(=C1C)CCO | InChI=1S/C13H16NOS.ClH/c1-11-13(7-8-15)16-10-14(11)9-12-5-3-2-4-6-12;/h2-6,10,15H,7-9H2,1H3;1H/q+1;/p-1
